US04898863
A solution of t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-(2-methoxycarbonylvinyl)indol-1-ylmethyl]-3-methoxybenzoate (1.11 g) in methanol (10 ml) was treated with 10% (w/w) palladium on carbon (0.28 g) and shaken under 3.45 bars of hydrogen for 24 hours. The catalyst was removed by filtration through diatomaceous earth, and the filtrate was evaporated to give t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-(2-methoxycarbonylethyl)indol-1-ylmethyl]-3-methoxybenzoate (1.04 g, 94%) as a grey foam, mp 58°-60°.

reactant | t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-(2-methoxycarbonylvinyl)indol-1-ylmethyl]-3-methoxybenzoate | 1.11 g | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)C=CC(=O)OC | C32H38N2O6
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 0.28 g | [Pd] | Pd
product | t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-(2-methoxycarbonylethyl)indol-1-ylmethyl]-3-methoxybenzoate | 1.04 g, 94% | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)CCC(=O)OC | C32H40N2O6
